US05162321
Ethyl 2-acetyl-4-[4-(1-naphthyl)piperazino]butyrate hydrochloride
This compound was prepared according to the process described in Example 10, Stage C, from ethyl acetoacetate and 1-(1-naphthyl)-4-(2-chloroethyl)-piperazine.

reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 1-(1-naphthyl)-4-(2-chloroethyl)-piperazine | C1(=CC=CC2=CC=CC=C12)N1CCN(CC1)CCCl | C16H19ClN2
product | Ethyl 2-acetyl-4-[4-(1-naphthyl)piperazino]butyrate hydrochloride | Cl.C(C)(=O)C(C(=O)OCC)CCN1CCN(CC1)C1=CC=CC2=CC=CC=C12 | InChI=1S/C22H28N2O3.ClH/c1-3-27-22(26)19(17(2)25)11-12-23-13-15-24(16-14-23)21-10-6-8-18-7-4-5-9-20(18)21;/h4-10,19H,3,11-16H2,1-2H3;1H
